US07985763B2
To a stirred suspension of 5-hydroxyquinoline (10.0 g, 69.0 mmol) and 1,5-dibromo-pentane (23.9 g, 103.5 mmol) in N-methylpyrrolidinone (100 mL) was added potassium carbonate (14.7 g, 103.5 mmol). The resulting mixture was stirred at 90° C. for 4 h and then quenched with water (30 mL) followed by extraction with ethyl acetate (30 mL×3). The organic layers were combined, washed with brine, and then concentrated under vacuum. The residue was purified by silica gel chromatography to give 5-(5-bromo-pentyloxy)-quinoline (12.6 g, 42.8 mmol, 62%) as a white solid.

reactant | 5-hydroxyquinoline | 69.0 mmol, 10.0 g | OC1=C2C=CC=NC2=CC=C1 | C9H7NO
reactant | 1,5-dibromo-pentane | 103.5 mmol, 23.9 g | BrCCCCCBr | C5H10Br2
reactant | potassium carbonate | 103.5 mmol, 14.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | N-methylpyrrolidinone | 100 mL | CN1C(CCC1)=O | C5H9NO
product | 5-(5-bromo-pentyloxy)-quinoline | 42.8 mmol, 12.6 g, 62% | BrCCCCCOC1=C2C=CC=NC2=CC=C1 | C14H16BrNO
